US07632840B2
4-Carbamoyl-4-methylaminopiperidine was coupled with 2-bromoethylmethyl ether using an analogous method to that described for the equivalent step in Example 22 to give 1-(2-methoxyethyl)-4-(methylamino)piperidine-4-carboxamide as a white crystalline solid; 1H NMR Spectrum: (DMSO-d6) 1.44 (m, 2H); 1.78 (m, 2H); 1.89 (s, 1H); 2.05 (s, 3H); 2.28-2.44 (m, 6H); 3.21 (s, 3H); 3.38 (t, 2H); 6.84 (s, 1H); 7.16 (s, 1H).

reactant | 4-Carbamoyl-4-methylaminopiperidine | C(N)(=O)C1(CCNCC1)NC | C7H15N3O
reactant | 2-bromoethylmethyl ether | BrCCOC | C3H7BrO
product | 1-(2-methoxyethyl)-4-(methylamino)piperidine-4-carboxamide | COCCN1CCC(CC1)(C(=O)N)NC | C10H21N3O2
